US04064239
b. 1,2-Dichloro-1-(3-aminophenyl)-1-propene
13 G. of 1,1,2,2-tetrachloro-1-(3-nitrophenyl) propane and 7.9 g. of iron powder is stirred vigorously under reflux in 465 ml. of 50% aqueous ethanol. 5.6 Ml of a solution prepared prejviously from 52 ml. of concentrated hydrochloric acid and 250 ml. of 50% aqueous ethanol are added dropwise over 5 minutes. After an additional 2 hours of stirring at reflux temperature, the hot reaction mixture is filtered, cooled to room temperature, diluted with enough chloroform to double the volume of the ethanol, and made basic with saturated aqueous sodium bicarbonate solution. The organic layer is separated, washed with water, dried and concentrated in vacuo to give a mixture of essentially pure cis and trans 1,2-dichloro-1-(3-aminophenyl)-1-propene as a yellow oil.

reactant | 1,1,2,2-tetrachloro-1-(3-nitrophenyl) propane | ClC(C(C)(Cl)Cl)(C1=CC(=CC=C1)[N+](=O)[O-])Cl | C9H7Cl4NO2
reactant | hydrochloric acid | Cl | ClH
catalyst | iron | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dichloro-1-(3-aminophenyl)-1-propene | ClC(=C(C)Cl)C1=CC(=CC=C1)N | C9H9Cl2N
